US06716843B2
Step A: [1-(Methylsulphonyl)-2-(methylthio)-4,5-dihydro-1H-imidazole
Starting from 2-(methylthio)-4,5-dihydro-1H-imidazole and methanesulphonyl chloride, the expected product is obtained according to the procedure described in Step C of Example 3.

reactant | 2-(methylthio)-4,5-dihydro-1H-imidazole | CSC=1NCCN1 | C4H8N2S
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 1-(Methylsulphonyl)-2-(methylthio)-4,5-dihydro-1H-imidazole | CS(=O)(=O)N1C(=NCC1)SC | C5H10N2O2S2
